US08168651B2
5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-7-carboxylic acid (1.0 eq, 1.91 g, 7.96 mmol) was mixed with HOBt.H2O (2.0 eq, 2.15 g, 15.91 mmol) and NH4Cl (8.0 eq, 3.41 g, 63.6 mmol) in NMP (30 ml). DIEA (4.0 eq, 5.5 ml, 31.57 mmol) and EDCI (2.0 eq, 3.05 g, 15.91 mmol) was added and the mixture was stirred in a closed vessel at 80° C. for 2.5 hours. Water and brine were added. The solid was filtered, washed with water, washed with methanol and dried in a vacuum oven. 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-7-carboxamide was isolated as an off-white solid (1.81 g, 96% yield). LCMS (ES): m/z 240 [M+1]+.

reactant | 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-7-carboxylic acid | 7.96 mmol, 1.91 g, 1.0 eq | O=C1NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)O | C13H8N2O3
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4Cl | 63.6 mmol, 3.41 g, 8.0 eq | [NH4+].[Cl-]
reactant | DIEA | 31.57 mmol, 5.5 ml, 4.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 15.91 mmol, 3.05 g, 2.0 eq | CCN=C=NCCCN(C)C | C8H17N3
solvent | NMP | 30 ml | CN1CCCC1=O | C5H9NO
solvent | brine | [Cl-].[Na+].O
solvent | Water | O | H2O
solvent | H2O | 15.91 mmol, 2.15 g, 2.0 eq | O | H2O
product | 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-7-carboxamide | O=C1NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)N | C13H9N3O2
